US04010177
In the manner given in Preparation 10, 7-chloro-5(2,6-difluorophenyl)-3H-1,4-benzodiazepin-2-yl hydrazine is reacted with chloroacetyl chloride and after 1.5 hours with sodium acetate, then the mixture is refluxed to give 8-chloro-1-(chloromethyl)-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4-benzodiazepine. Preparation 14 8-Nitro-1-(bromomethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 7-chloro-5(2,6-difluorophenyl)-3H-1,4-benzodiazepin-2-yl hydrazine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2F)F)C1 | C15H11ClF2N4
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 1,4-benzodiazepine | N1C=CN=CC2=C1C=CC=C2 | C9H8N2
